US05407936
5-Chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)-6-nitrobenzimidazole (1.2 g) was dissolved in 2.5N hydrochloric acid (20 ml) and thereto was added zinc powder (1.5 g) in portions and the mixture was stirred at 80° C. for 4 hours. The reaction mixture was made basic with an aqueous ammonia and extracted with chloroform. The chloroform layer was washed with water and dried over anhydrous magnesium sulfate and then the solvent was distilled off under reduced pressure. The residue was recrystallized from acetonitrile to give 6-amino-5-chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)benzimidazole (0.6 g) as colorless crystal.

reactant | 5-Chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)-6-nitrobenzimidazole | 1.2 g | ClC1=CC2=C(N(C(=N2)N2CCN(CC2)C)C(C)C)C=C1[N+](=O)[O-] | C15H20ClN5O2
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 2.5N, 20 ml | Cl | ClH
catalyst | zinc | 1.5 g | [Zn] | Zn
product | 6-amino-5-chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)benzimidazole | 0.6 g | NC=1C(=CC2=C(N(C(=N2)N2CCN(CC2)C)C(C)C)C1)Cl | C15H22ClN5
